US09388189B2
(S)-tert-Butyl (3-(benzylthio)-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate
(S)-tert-Butyl (3-bromo-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate (45 mg, 0.03 mmol) was treated with benzyl hydrosulfide (7 μl, 0.06 mmol) and potassium carbonate (6 mg, 0.05 mmol) according to the method described in Preparation 31. The residue was purified using SP1® Purification System (0% to 50%, hexane-ethyl acetate) to give 12 mg (81% yield) of the title compound. Purity 70%.

reactant | (S)-tert-Butyl (3-bromo-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 0.03 mmol, 45 mg | BrCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)NC(OC(C)(C)C)=O | C20H23BrN4O3
reactant | benzyl hydrosulfide | 0.06 mmol, 7 μl | C(C1=CC=CC=C1)S | C7H8S
reactant | potassium carbonate | 0.05 mmol, 6 mg | C([O-])([O-])=O.[K+].[K+]
product | (S)-tert-Butyl (3-(benzylthio)-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)carbamate | 12 mg, 81% yield | C(C1=CC=CC=C1)SCC[C@@H](C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)NC(OC(C)(C)C)=O | C27H30N4O3S
